US08957064B2
3-bromo-2-methyl-6-phenyl-7-{4-[3-(5-pyridine-2-yl-1H-[1,2,4]triazole-3-yl]-azetidine-1-ylmethyl]-phenyl}-imidazo[1,2-a]pyrimidine
147.6 mg 2-(5-Azetidine-3-yl-[1,2,4]triazole-3-yl)-pyridine×2HCl (intermediate example 44.0) are dissolved in 4.3 ml NMP. After addition of 0.16 ml triethylamine the reaction mixture is stirred for one hour. 192 mg (0.49 mmol) 4-(3-Bromo-2-methyl-6-phenylimidazo[1,2-a]pyrimidin-7-yl)benzaldehyde and 0.05 mL acetic acid are added and the reaction mixture is stirred for 23 hours at room temperature. 114.1 mg (0.54 mmol) NaBH(OAc)3, are added in portions and the reaction mixture is stirred at room temperature for three days. The reaction mixture is treated with 30 mL saturated NaHCO3 and stirred for 45 minutes. The precipitate is filtered off, washed with water and dried. After chromatography of the precipitate on silica gel (dichloromethane/methanol) 3.5 mg (1.2%) of the desired product are obtained.

reactant | 2-(5-Azetidine-3-yl-[1,2,4]triazole-3-yl)-pyridine | 147.6 mg | N1CC(C1)C1=NC(=NN1)C1=NC=CC=C1 | C10H11N5
reactant | 4-(3-Bromo-2-methyl-6-phenylimidazo[1,2-a]pyrimidin-7-yl)benzaldehyde | 0.49 mmol, 192 mg | BrC1=C(N=C2N1C=C(C(=N2)C2=CC=C(C=O)C=C2)C2=CC=CC=C2)C | C20H14BrN3O
reactant | NaBH(OAc)3 | 0.54 mmol, 114.1 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
solvent | NMP | 4.3 ml | CN1CCCC1=O | C5H9NO
solvent | acetic acid | 0.05 mL | C(C)(=O)O | C2H4O2
solvent | triethylamine | 0.16 ml | C(C)N(CC)CC | C6H15N
product | 3-bromo-2-methyl-6-phenyl-7-{4-[3-(5-pyridine-2-yl-1H-[1,2,4]triazole-3-yl]-azetidine-1-ylmethyl]-phenyl}-imidazo[1,2-a]pyrimidine | BrC1=C(N=C2N1C=C(C(=N2)C2=CC=C(C=C2)CN2CC(C2)C2=NNC(=N2)C2=NC=CC=C2)C2=CC=CC=C2)C | C30H25BrN8
